Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Double Vision and Poor Balance
 
Major Surgical or Invasive Procedure:
___ Stereotactic Brain Biopsy
___ Lumbar Puncture
 
History of Present Illness:
___ is a ___ right-handed man who initially 
presented to outpatient Neurology clinic for fatigue, gait 
unsteadiness, and double vision, and was subsequently found to 
have abnormal MRI showing multifocal enhancing lesions, as well 
as CSF findings of pleocytosis with lymphocytic predominance, 
altogether concerning for CNS lymphoma or other malignancy.

Beginning just after ___, the patient began to feel 
extremely fatigued, despite sleeping ___ hours more than usual 
nightly, without any change in the quality of sleep. He also 
reports intense dreams/nightmares initially which then improved. 
Wife denies any abnormal activity during sleep. The patient says 
he is still motivated to be out and about doing things, but his 
tiredness keeps him from doing this at times. His wife notes 
that when he is especially tired he seems "out of it," less 
interactive, and looks glazed over. The patient feels that his 
new sleeping habits have been stable since onset at the end of 
___.

In ___, he also began to notice horizontal double vision 
while watching TV. He said this is worse when he is tired or 
stares at something for a long time. If he closes either eye, 
the diplopia goes away. He does believe the diplopia is worse 
when he is gazing to the left, but also notes it on right gaze. 
It is worse when looking at more distant objects. His wife 
thinks his eyes appear misaligned at times, particularly when he 
is tired. Mr. ___ feels his diplopia is unchanged since onset 
in ___.

He also began to experience balance issues. When he tried to 
stand on one leg he fell over. His wife describes his gait as 
being shuffling, stumbling, and "drunk" like. He also reports 
his voice is softer, but no slurred speech or difficulty 
comprehending or producing speech.

Of note, Mr. ___ does endorse some short-term memory loss. 
However, his wife feels this has been coming on for at least a 
year, and does not think it has significantly worsened in the 
setting of these new symptoms.

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies bowel or bladder incontinence 
or retention. Denies difficulty with gait.  

On general review of systems, the patient denies fevers, rigors, 
night sweats, or noticeable weight loss. Denies chest pain, 
palpitations, dyspnea, or cough. Denies nausea, vomiting, 
diarrhea, constipation, or abdominal pain. No recent change in 
bowel or bladder habits. Denies dysuria or hematuria. Denies 
myalgias, arthralgias, or rash.

 
Past Medical History:
He is s/p gallbladder surgery.  He also has a history of 
hypertension and depression.
 
Social History:
___
Family History:
Mother died of stomach cancer; father died at ___ (heart attack 
and hypertension).
 
Physical Exam:
ADMISSION EXAMINATION:
VITAL SIGNS:  T: 97.7 F HR: 62 BP: 130/84 RR: 18 SaO2: 97% RA
General: NAD 
HEENT: NCAT, no oropharyngeal lesions, neck supple 
___: RRR, no M/R/G 
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema 

Neurologic Examination:  
Awake, alert, oriented x 3. Able to relate history without 
difficulty. Attentive, able to name ___ backward without 
difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact. No 
paraphasias. No dysarthria. Flat affect. Able to register 3 
objects and recall ___ at 15 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands. 
 
- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting. 
Eyes slightly dysconjugate with right exodeviation, no vertical 
misalignment. Able to move his eyes in all directions, but mild 
limitation of upgaze, and does not bury sclera on abduction 
bilaterally, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

- Motor - Normal bulk. No drift. No tremor or asterixis. 
Maintains activating postures with upper extremities (?waxy 
flexibility), but normal resting tone.
Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  
L ___ 5  
R ___ 5  

- Sensory - No deficits to light touch or proprioception 
bilaterally.

-DTRs:  
  Bi Tri ___ Pat Ach  
L 2   2    2    2   1  
R 2   2    2    2   1  
Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements. Slightly low amplitudes on finger taps.

- Gait - No truncal ataxia on sitting or standing. With eyes 
closed, minimal sway but maintained standing position. Slow and 
hesitant but steady gait, with slightly reduced arm swing. No 
shuffling or difficulty with turning. Unable to tandem gait.

DISCHARGE EXAMINATION:
Recently febrile, lying comfortably in bed, breathing unlabored
Decerebrate posturing of bilateral upper extremities with 
bilateral up-going toes
Remaining examination deferred as patient is CMO

 
Pertinent Results:
Admission Laboratory Data:  
Serum:
WBC 6.0; Total Prot 7.2, Alb 4.5; CRP 0.4; Gluc 79; SedRate 9;
serum proteinelectrophoresis was nl; he is positive for lupus
anticoagulant and his ___ is motive at 1:40; 

CSF: #1: 9 WBCs, 10 RBCs; 93% lymphos; #4: 5 WBCs, 0 RBCs; 94%
lymphos
Total Protein: 70 (normal ___ Gluc 54; oligoclonal bands 
were
negative; gram stain is negative;
CSF Cytology: hypercellumar specimen with predominantly
lymphocytes (mildly monomorphic with some activated cell, but no
cancerous appearing cells;

CSF Flow Cytometry:
Non-specific T cell dominant lymphoid profile; diagnostic
immunophenotypic features of involvement by lymphoma are not 
seen
in specimen, on a limited analysis.

IMAGING:
___ Brain MRI
1. Markedly increased patchy regions of high signal throughout 
the supra and infra tentorium, predominantly at site of prior 
disease, with new areas of involvement, as described above, 
extensively involving the basal ganglia, midbrain and pons. 
Interval decreased multi focal contrast enhancement, with only 
mild residual faint enhancement seen in the left temporal lobe, 
right basal ganglion and genu of the corpus callosum.  These 
findings are most consistent with acute methotrexate toxicity 
given recent initiation of high dose methotrexate and clinical 
deterioration of the patient.  Progression of disease is less 
likely given interval decreased contrast enhancement, which 
suggests improved disease burden.  The distribution would be 
very unusual for posterior reversible encephalopathy syndrome 
and the distribution and history would be difficult to reconcile 
with osmotic demyelination. 

2. Mild increased size of the ventricles with imaging findings 
of papilledema, suggestive of intracranial hypertension. 

___ Brain MRI  
1. Diffuse subcortical, periventricular, callosal, right greater 
than left basal ganglia, pontine, midbrain, left cerebral and 
left superior cerebellar peduncle enhancing lesions with 
associated subtle slow diffusion and possible increased ASL and 
DSC perfusion.  There appears to be linear enhancement in a 
perivascular distribution at the basal ganglia.  Increased 
choline to NAA ratio on single voxel spectroscopy centered over 
a dominant right basal ganglia lesion. 
2. The constellation of findings suggest primary CNS lymphoma.  
Differential consideration would include gliomatosis cerebri or 
less likely metastatic disease. 

___ CT ABD/PELVIS:
1.  Left upper lobe nodule with irregular margins measuring 1 
cm. Malignancy
is not excluded.  No lymphadenopathy or other evidence of 
metastasis is noted.
Follow up in three months is recommended to evaluate for 
progression.
2.  Findings consistent with interstitial lung 
disease/non-specific
interstitial pneumonia.
3.  No other lesion suspicious for malignancy seen within the 
abdomen or
pelvis.

___
1.  Left upper lobe nodule with irregular margins measuring 1 
cm. Malignancy
is not excluded.  No lymphadenopathy or other evidence of 
metastasis is noted.  Follow up in three months is recommended 
to evaluate for progression.
2.  Findings consistent with interstitial lung 
disease/non-specific
interstitial pneumonia.
3.  No other lesion suspicious for malignancy seen within the 
abdomen or
pelvis.
RECOMMENDATION(S):  Follow up chest CT in three months is 
recommended to
evaluate LUL nodule.

___ SCROTAL US:
1.  Testicles are unremarkable.
2.  Hypoechoic right epididymis head may reflect chronic 
inflammation/edema, without suspicious mass lesion. Small cysts 
are noted in the right epididymis head.

___.  The dominant hyperdense mass in the right basal ganglia with 
expected
post-biopsy change including new moderate pneumocephalus, 
evolving probable
small amount of associated hemorrhage at the presumed biopsy 
site in the basal ganglia, and a small amount of 
intraparenchymal hemorrhage at the entry of the biopsy tract in 
the right frontal lobe. Overall mass effect with partial 
effacement of the anterior horn of the right lateral ventricle 
is unchanged.
2.  Other bilateral hyperdense masses are similar to the prior 
exam.

___ ECHO:
The left atrium is elongated. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. The mitral valve leaflets are structurally normal. Mild 
(1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 
 
Brief Hospital Course:
___ is a ___ year-old right-handed man who developed 
progressive subacute gait ataxia, increased sleepiness, 
hypophonia, and flatter affect since early ___ who was 
evaluated in clinic and found to have multifocal white matter 
lesions on MRI, non-specific pleocytosis on LP, prompting 
neurology admission for expedited workup that showed primary CNS 
lymphoma on brain biopsy ___.

(1) PRIMARY CNS LYMPHOMA: Based on pathology from ___ 
stereotactic brain biopsy of the R basal ganglia this likely 
represents PCNSL. It is atypical in that it is multifocal. CT 
torso was without lymphadenopathy and scrotal US did not show a 
testicular primary. Of note his CNS HIV VL was negative and his 
serum HIV Ab was negative. Treatment was started with 
Methotrexate C1D1 ___ and his subsequent methotrexate 
levels trended down, with only mild hepatitis that was thought 
due to methotrexate. Due to increasing obtundation, patient was 
intubated/sedated and transferred to ICU for monitoring. He 
underwent MRI which was concerning for increasing progression of 
disease in mid-brain vs MTX toxicity; following a family 
discussion the decision was made to transition the patient to 
comfort measures and he was extubated and transferred to the 
oncology floor and ultimately discharged to hospice.  The family 
did wish for the patient to have an autopsy after his death. 

(2) OBTUNDATION DUE TO BRAIN STEM TUMORS: Patient has had some 
inattention this admission, but became significantly more 
lethargic ___ to the point that he has been unable to 
follow commands and is pulling and lines and tubes. Lumbar 
puncture on ___ with 7 WBC, similar to prior suggesting not 
infection. An infectious workup showed no pneumonia, urinary 
tract infection, or blood stream infection. He remained afebrile 
without sepsis. A 24 hr video EEG showed no seizures, though 
there were epileptiform discharges in the right frontal region 
thought due to his recent brain biopsy. His progressive decline 
in alertness was initially characterized by mild discomfort and 
agitation, but worsened to inability to open his eyes and 
consistently follow commands. After infectious workup was 
unrevealing, it was thought that his decreased consciousness and 
inability to open his eyes with preserved pupillary reflexes was 
likely due to progressive brain stem dysfunction, either due to 
swelling from tumor death or due to tumor progression.  On 
___, he developed decorticate posturing of his right arm 
suggesting ongoing worsening. He was transferred to the ICU for 
planned intubation and MRI while intubated. In the ICU, patient 
was intubated and sedated. He was minimally responsive, even 
with weaned sedation. He underwent MRI; following concern for 
progression of tumor burden on MRI, a family meeting was held 
and the decision was made to extubate the patient and transition 
to comfort measures. He was extubated on ___.

(3) CRANIOTOMY: Small amount of post-op hemorrhage on CT. 
Surgical site c/d/I. S/p staple removal on ___

TRANSITIONAL: 
============
- Family has requested autopsy after patient's death
EMERGENCY CONTACT HCP:  ___ (wife) ___
CODE STATUS: Comfort measures only

 
Medications on Admission:
1. Lisinopril 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) unknown 
unknown oral DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. lactobacillus combination ___ billion cell oral DAILY 
6. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY
 
Discharge Medications:
Comfort pack : comfort care medications
 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Primary:
CNS Lymphoma

Secondary:
Delirium
Decreased functional mobility
Poor balance
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.
 
Discharge Instructions:
Dear Mr. ___ and family,

You were admitted to ___ on ___ after having trouble with 
double vision and balance at home. A brain biopsy was performed 
and unfortunately we found that you had primary CNS lymphoma. We 
started you on chemotherapy but your condition worsened and 
after a discussion your care was transitioned to be focused on 
your comfort.  

It was a pleasure taking part in your care. 
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___